US20010027193A1
(RS)-2-{1-[[Bis(4-chlorophenyl)methyl]-azetidin-3-yl}-2-(3,5-difluorophenyl)-N-propylacetamide may be prepared in the following manner: 0.050 cm3 of a 2 M solution of methylamine in tetrahydrofuran, 29 mg of 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride, 0.028 cm3 of triethylamine and 1.5 mg of hydroxybenzotriazole hydrate are successively added to a solution of 50 mg of (RS)-{1-[bis(4-chlorophenyl)-methyl]azetidin-3-yl}-(3,5-difluorophenyl)acetic acid hydrochloride in 2 cm3 of anhydrous dichloromethane, at a temperature in the region of 20° C. The solution obtained is stirred at a temperature in the region of 20° C. for about 12 hours. The reaction medium is deposited on a Varian cartridge (6 cm3) filled with 3 g of fine silica (0.040-0.063 mm) conditioned and eluted with dichloromethane with the aid of a Duramat pump. The fractions containing only the desired product are combined and concentrated to dryness under reduced pressure (2.7 kPa) at 40° C. 19 mg of (RS)-2-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-2-(3,5-difluorophenyl)-N-methylacetamide are thus obtained in the form of a white solid [1H NMR spectrum (300 MHz, CDCl3, δ in ppm): 2.66 (mt: 1H); 2.76 (d, J=5 Hz: 3H); 2.93 (mt: 1H); 3.10 (mt: 2H); 3.44 (broad t, J=7.5 Hz: 1H); 3.59 (d, J=10.5 Hz: 1H); 4.28 (s: 1H); 5.41 (unresolved complex: 1H); 6.71 (tt, J=9 and 2.5 Hz: 1H); 6.83 (mt: 2H); from 7.20 to 7.35 (mt: 8H)].

reactant | methylamine | CN | CH5N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 29 mg | Cl.CN(CCCN=C=NCC)C
reactant | hydroxybenzotriazole hydrate | 1.5 mg | O.OC1=CC=CC=2NN=NC21
reactant | (RS)-{1-[bis(4-chlorophenyl)-methyl]azetidin-3-yl}-(3,5-difluorophenyl)acetic acid hydrochloride | 50 mg | Cl.ClC1=CC=C(C=C1)C(N1CC(C1)C(C(=O)O)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | dichloromethane | 2 cm3 | ClCCl | CH2Cl2
solvent | triethylamine | 0.028 cm3 | C(C)N(CC)CC | C6H15N
product | (RS)-2-{1-[bis(4-chlorophenyl)methyl]azetidin-3-yl}-2-(3,5-difluorophenyl)-N-methylacetamide | 19 mg | ClC1=CC=C(C=C1)C(N1CC(C1)C(C(=O)NC)C1=CC(=CC(=C1)F)F)C1=CC=C(C=C1)Cl | C25H22Cl2F2N2O
